US04835246
POLYMERIZATION OF 2,5-DIAMINO-1,4-BENZENE DITHIOL
2,5-Diamino-1,4-benzene dithiol dihydrochloride (1.5544 g, 6.3 mmol), 2-benzoxazole terephthalic acid (1.7956 g, 6.3 mmol) and 10.2 g of polyphosphoric acid (83% P2O5) were placed in a resin flask equipped with a mechanical stirrer, nitrogen inlet/outlet tubes, a vacuum connector and a side opening on the resin flask. With nitrogen continuously flowing, the solution was heated slowly to 60° C. for 24 hours and 90° C. for 16 hours to remove the hydrochloride. The mixture was heated at 160° C. for 17 hours, then at 190° C. for 17 hours. Work-up, as in the preceeding Example, gave a polymer with [N]=0.96 dl/g, methanesulfonic acid at 30° C.

reactant | 2,5-Diamino-1,4-benzene dithiol dihydrochloride | 6.3 mmol, 1.5544 g | Cl.Cl.NC1=C(C=C(C(=C1)S)N)S
reactant | 2-benzoxazole terephthalic acid | 6.3 mmol, 1.7956 g | O1C(=NC2=C1C=CC=C2)C2=CC(=CC=C2C(=O)O)C(=O)O | C15H9NO5
product | 2,5-DIAMINO-1,4-BENZENE DITHIOL | NC1=C(C=C(C(=C1)S)N)S | C6H8N2S2
